US08034954B2
Part C: A mixture of 4,6-dichloro-5-fluoro-2-methylpyrimidine (1.55 g, 8.56 mmol), ammonium hydroxide (35%, 10.0 mL, 257 mmol), and MeOH (1.00 mL) was heated, in a sealed tube, at 70° C. for 2 h. The reaction mixture was cooled to RT, and a precipitate was formed. The reaction mixture was diluted with water (ca. 10 mL) and was stirred 30 min. The solids were collected by suction filtration, washed with water and air-dried to give 4-amino-6-chloro-5-fluoro-2-methylpyrimidine (845 mg, 61%) as a tan solid. LCMS (m/z): 162,164 (M+H)+

reactant | 4,6-dichloro-5-fluoro-2-methylpyrimidine | 8.56 mmol, 1.55 g | ClC1=NC(=NC(=C1F)Cl)C | C5H3Cl2FN2
reactant | ammonium hydroxide | 257 mmol, 10.0 mL | [OH-].[NH4+]
reactant | MeOH | 1.00 mL | CO | CH4O
solvent | water | ca. 10 mL | O | H2O
product | 4-amino-6-chloro-5-fluoro-2-methylpyrimidine | 845 mg, 61% | NC1=NC(=NC(=C1F)Cl)C | C5H5ClFN3
